US07812016B2
To a suspension of N′,8-dihydroxy[1,6]naphthyridine-7-carboximidamide (50 mg, 0.244 mmol) in dioxane (3 mL) was-added 4-fluorophenylacetyl chloride (40 μL, 0.293 mmol). The reaction vessel was sealed and heated at 160° C. in a microwave chamber for 10 minutes. The solids were collected on a filter, then triturated with methano/ether to provide 7-[5-(4-fluorobenzyl)-1,2,4-oxadiazol-3-yl][1,6]naphthyridin-8-ol hydrochloride (13 mg, 15%) as an orange solid. 1H NMR (CD3OD) δ 9.43 (d, J=4 Hz, 1H), 9.34 (s, 1H), 9.05 (d, J=8.0 Hz, 1H), 8.14 (dd, J=8.4, 4.8 Hz, 1H), 7.48 (dd, J=8.4, 5.2 Hz, 2H), 7.12 (t, J=8.8 Hz, 2H), 4.92 (s, 2 H); MS m/z 323 (M+1).

reactant | N′,8-dihydroxy[1,6]naphthyridine-7-carboximidamide | 0.244 mmol, 50 mg | ON=C(N)C1=NC=C2C=CC=NC2=C1O | C9H8N4O2
reactant | 4-fluorophenylacetyl chloride | 0.293 mmol, 40 μL | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 7-[5-(4-fluorobenzyl)-1,2,4-oxadiazol-3-yl][1,6]naphthyridin-8-ol hydrochloride | 13 mg, 15% | Cl.FC1=CC=C(CC2=NC(=NO2)C2=NC=C3C=CC=NC3=C2O)C=C1 | InChI=1S/C17H11FN4O2.ClH/c18-12-5-3-10(4-6-12)8-13-21-17(22-24-13)15-16(23)14-11(9-20-15)2-1-7-19-14;/h1-7,9,23H,8H2;1H
